Transitory digital & analog circuit
*
*
*date: 17/04/2026
*Gabriel da cruz
*
*
*

* Circuit description
V1 n1 0 SIN(0 127 60)
R1 n2 n1 0.1m
L1 n3 n2 0.1u
Vmeas1 n4 n3 0V	;Works with a amperimeter

*Key control

Vctrl1 ctrl1 0 DC 0
Vctrl2 ctrl2 0 DC 0
Vctrl3 ctrl3 0 DC 0
Vctrl4 ctrl4 0 DC 0

.model SW SW(Ron=1m Roff=1Meg Vt=2 Vh=0)

* Branches
S1 n5 n4 ctrl1 0 SW
R2 n6 n5 100
Vmeas2 n6 0 0

S2 n7 n4 ctrl2 0 SW
R3 n8 n7 50
Vmeas3 n8 0 0

S3 n9 n4 ctrl3 0 SW
R4 n10 n9 250
Vmeas4 n10 0 0

S4 n11 n4 ctrl4 0 SW
R5 n12 n11 200
Vmeas5 0 n12 0


* Overall compilation
.tran 1e-6 10e-3	;100u 0.2 0 10u  ou 0.0001 0.2	 ou 1u 10m

.control
set filetype=ascii
set outfile="ngspice_output.txt"
*run ; plot I(Vmeas1) I(Vmeas2) I(Vmeas3)	;Can use .save instead of plot to exhibit in C++
*plot V(n1) I(Vmeas1)
*print V(n1) V(n2) V(n3)

*print all
run
write ngspice_output.txt i(vmeas1) v(ctrl1) v(ctrl2) v(ctrl3) v(ctrl4)

.endc
.end
